US06610692B1
Step C: 3-Cyclopropyl-2,2-difluoropropyl trifluoromethanesulfonate
To a 0° C. solution of 952 mg (7.0 mmol) of 3-cyclopropyl-2,2-difluoropropanol and 5.0 g (18 mmol) of 2,6-di-t-butyl-4-methylpyridine in 7 mL of CH2Cl2 was added 5.0 g of trifluoromethanesulfonic anhydride dropwise under Ar. The cold bath was removed and the mixture stirred overnight. The reaction mixture was diluted with 100 mL of pentane, and the precipitate removed by filtration. The filter cake was washed with pentane, and the filtrate washed with two portions of cold 1M HCl, brine, dried over Na2SO4 and the solvents removed at reduced pressure to give the title compound as an oil:

reactant | 3-cyclopropyl-2,2-difluoropropanol | 7.0 mmol, 952 mg | C1(CC1)CC(CO)(F)F | C6H10F2O
reactant | 2,6-di-t-butyl-4-methylpyridine | 18 mmol, 5.0 g | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
reactant | trifluoromethanesulfonic anhydride | 5.0 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
product | 3-Cyclopropyl-2,2-difluoropropyl trifluoromethanesulfonate | FC(S(=O)(=O)OCC(CC1CC1)(F)F)(F)F | C7H9F5O3S
